US06998497B2
Nickel(II) bis-triflimide (0.062 g, 0.1 mmol) was added to 1-butyl-3-methylimidazolium bis-trifluoromethanesulfonimide ([bmim][NTf2]) (1.0 g) in a 25 cm3 round-bottomed flask equipped with a magnetic stirrer and reflux condenser, and the mixture stirred until the catalyst dissolved. Chlorobenzene (1.68 g, 15 mmol) and benzoyl chloride (1.41 g, 10 mmol) were added. The mixture was heated under reflux for 72 hours and was analysed by gas chromatographic analysis as in previous examples. The reaction was cooled to room temperature. Petroleum ether (15 cm3, bp=40-60° C.) was added and the catalyst and ionic liquid formed a separate phase from the petroleum ether layer. The solution of the product (in petroleum ether) was decanted and the flask (containing the ionic liquid and catalyst) washed three times with 15 cm3 of petroleum ether. Concentration of the organic extract, followed by Kugenrohr distillation at 1 mm Hg (bp=170-190° C.), gave chlorobenzophenone (1.65 g, 74%). GC analysis showed 78% yield after 72 hours, with a 70:8 4- to 2- isomer ratio. This is a remarkable result, as chlorobenzene is known to be classically unreactive in acylation reactions. It has not previously been possible to isolate significant quantities of the products of the acylation of chlorobenzene.

reactant | 1-butyl-3-methylimidazolium bis-trifluoromethanesulfonimide | 1.0 g | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.C(CCC)[N+]1=CN(C=C1)C.C(CCC)[N+]1=CN(C=C1)C
reactant | Chlorobenzene | 15 mmol, 1.68 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | benzoyl chloride | 10 mmol, 1.41 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | Nickel(II) bis-triflimide | 0.1 mmol, 0.062 g | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Ni+2]
product | chlorobenzophenone | 1.65 g, 74% | ClC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H9ClO
